US07057042B2
2-{1-[(5-chloro-1-benzothien-3-yl)methyl]-4-piperidinyl}pyridine
3-(Bromomethyl)-5-chloro-1-benzothiophene (150 mg 0.9 mmol) and 4-(2-pyridyl)piperidine (181 mg, 1.0 mmol) were processed as described in Example 2 to provide the title compound. 1H NMR (300 MHz, d6-DMSO) δ 2.73 (t, J=1.86 Hz, 4H)) 3.18 (m, 4H) 3.55 (s, 1H) 4.63 (s, 2H) 7.29 (m, 2H) 7.50 (dd, J=8.31, 1.86 Hz, 1H) 7.78 (m, 1H) 8.15 (m, 2H) 8.32 (m, 1H) 8.53 (s, 1H); (ESI) m/z 343 (M+H)+.

reactant | 3-(Bromomethyl)-5-chloro-1-benzothiophene | 0.9 mmol, 150 mg | BrCC1=CSC2=C1C=C(C=C2)Cl | C9H6BrClS
reactant | 4-(2-pyridyl)piperidine | 1.0 mmol, 181 mg | N1=C(C=CC=C1)C1CCNCC1 | C10H14N2
product | 2-{1-[(5-chloro-1-benzothien-3-yl)methyl]-4-piperidinyl}pyridine | ClC=1C=CC2=C(C(=CS2)CN2CCC(CC2)C2=NC=CC=C2)C1 | C19H19ClN2S
